US05278326
Step D: Preparation of N-[2,6-bis(1-methylethyl)phenyl]-3-oxo-14-[(tetrahydro-2H-pyran-2-yl)oxy]-tetradecanamide
The title compound was prepared from 13-[(tetrahydro-2H-pyran-2-yl)oxy]-2-tridecanone (2.0 g, 0.006 mol), 2,6-diisopropylphenyl isocyanate (1.36 g, 0.006 mol), and lithium diisopropylamide (0.006 mol) using the procedure described in Example 1. Purification by flash chromatography (silica gel, 10% EtOAc/hexane) yielded 3.11 g (0.006 mol, 93%) of the desired product.

reactant | 13-[(tetrahydro-2H-pyran-2-yl)oxy]-2-tridecanone | 0.006 mol, 2.0 g | O1C(CCCC1)OCCCCCCCCCCCC(C)=O | C18H34O3
reactant | 2,6-diisopropylphenyl isocyanate | 0.006 mol, 1.36 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
reactant | lithium diisopropylamide | 0.006 mol | C(C)(C)[N-]C(C)C.[Li+]
product | N-[2,6-bis(1-methylethyl)phenyl]-3-oxo-14-[(tetrahydro-2H-pyran-2-yl)oxy]-tetradecanamide | 0.006 mol, 3.11 g, 93% | CC(C)C1=C(C(=CC=C1)C(C)C)NC(CC(CCCCCCCCCCCOC1OCCCC1)=O)=O | C31H51NO4
